US06897231B2
B. 3-(5-(2H-1,2,3,4-Tetrazol-5-yl)-1H-indazole-3-yl)phenylamine
The title compound was prepared from 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.273 g, 0.86 mmol), azidotributyl tin (0.314 g, 0.260 mL, 0.95 mmol) in toluene (10 mL). The reaction mixture was heated to reflux temperature for 12 hours resulting in partial conversion to the desired product along with partially and fully deprotected final products. An additional amount of azidotributyl tin was added (0.260 mL) and the reaction was heated to reflux temperature for 18 hours. Toluene was removed under reduced pressure and the crude was dissolved in 5 mL of 1,4-dioxane, 5 mL of 6.0 N aqueous hydrogen chloride, and 2 mL of methanol. The reaction was then heated to 60° C. for 2 days. The reaction was concentrated under reduced pressure and the pH was made basic by adding 2.0 N aqueous NaOH. The aqueous phase was washed with ethyl acetate (3×10 mL). The aqueous phase was then acidified using 6.0 N aqueous hydrogen chloride. The compound was filtered and purified by preparative HPLC (10-100% acetonitrile in H2O, 20 min) (0.050 g, 0.18 mmol, 21% yield over 2 steps): 1H NMR (DMSO-d6) δ 13.8 (br s, 1H), 8.9 (s, 1H), 8.1 (d, 1H), 8.0 (d, 2H), 7.8 (d, 1H), 7.6 (t, 1H), 7.3 (d, 1H); ES-MS (m/z) 278 [M+1]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.86 mmol, 0.273 g | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H18N4O
reactant | azidotributyl tin | 0.95 mmol, 0.260 mL, 0.314 g | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(5-(2H-1,2,3,4-Tetrazol-5-yl)-1H-indazole-3-yl)phenylamine | N=1NN=NC1C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)N | C14H11N7
